US08735384B2
To 1-(benzyl(2-hydroxyethyl)amino)butan-2-ol (2.9 g, 12.99 mmol) was added 70% H2SO4 (15 mL) and the resulting solution was heated at 140° C. for 17 h. The mixture was brough to RT, cooled to 0° C. and made alkaline with 50% NaOH. The resulting solution was diluted in water and extracted with DCM. The combined organics were dried over Na2SO4, filtered and concentrated to afford 4-benzyl-2-ethylmorpholine as a light orange oil that was used without further purification.

reactant | 1-(benzyl(2-hydroxyethyl)amino)butan-2-ol | 12.99 mmol, 2.9 g | C(C1=CC=CC=C1)N(CC(CC)O)CCO | C13H21NO2
reactant | H2SO4 | 15 mL | OS(=O)(=O)O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | 4-benzyl-2-ethylmorpholine | C(C1=CC=CC=C1)N1CC(OCC1)CC | C13H19NO
